US05371080
3-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)-6-methoxy-5-morpholino-imidazo[1,5-a]quinazoline (Compound 70)
A mixture of 6-methoxy-5-morpholino-imidazo[1,5-a]quinazoline-3-carboxamide oxime (0.9 g), ethyl cyclopropylcarboxylate (1.7 g), molecular sieves (3 g), and 80% sodium hydride (0.1 g) in 20 ml of dry DMF was heated for 11/2 hours at 120° C. The mixture was cooled to room temperature, diluted with acetic acid (0.5 ml) and methylene chloride (20 ml) and filtered. The filtered mixture was evaporated and the residue was purified by column chromatography (HPLC) (eluent: methylene chloride:acetone (2:1)) to give yellow crystals of the title compound, m.p. 227°-228° C. Yield 0.38 g.

reactant | 6-methoxy-5-morpholino-imidazo[1,5-a]quinazoline-3-carboxamide oxime | 0.9 g | COC1=C2C(=NC=3N(C2=CC=C1)C=NC3C(N)=NO)N3CCOCC3 | C16H18N6O3
reactant | ethyl cyclopropylcarboxylate | 1.7 g | C1(CC1)C(=O)OCC | C6H10O2
reactant | sodium hydride | 0.1 g | [H-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)-6-methoxy-5-morpholino-imidazo[1,5-a]quinazoline | C1(CC1)C1=NC(=NO1)C=1N=CN2C1N=C(C1=C(C=CC=C21)OC)N2CCOCC2 | C20H20N6O3
